US07410984B2
3-(4-{2-Oxo-3-[4-(3-o-tolyl-ureido)phenyl]piperidin-1-yl}phenyl)propionic acid (E50)
The title compound was prepared from 3-{4-[3-(4-nitrophenyl)-2-oxo-2H-pyridin-1-yl]phenyl}propionic acid ethyl ester which is prepared as described in Preparation 24 with subsequent hydrogenation, urea formation, and hydrolysis steps analogous to the procedures of Preparation 23, Preparation 9 and Example 1 respectively.

reactant | 3-{4-[3-(4-nitrophenyl)-2-oxo-2H-pyridin-1-yl]phenyl}propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)N1C(C(=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C22H20N2O5
reactant | urea | NC(=O)N | CH4N2O
product | 3-(4-{2-Oxo-3-[4-(3-o-tolyl-ureido)phenyl]piperidin-1-yl}phenyl)propionic acid | O=C1N(CCCC1C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)C1=CC=C(C=C1)CCC(=O)O | C28H29N3O4
